US06348478B1
3-t-butyldimethylsilyloxybenzoic acid methyl ester
1.53 g of 3-hydroxybenzoic acid methyl ester and 1.69 g of imidazole were placed in a 50 ml flask, and a gas in the reaction system was replaced with nitrogen. 5 ml of DMF was added into the flask and stirred at 0° C. The obtained solution was mixed with 1.57 g of t-butyldimethylsilyl chloride, heated up to room temperature, simultaneously stirred overnight, and then mixed with a saturated aqueous solution of ammonium chloride to stop the reaction. The reaction solution was extracted with diethyl ether, and the obtained organic layer was sequentially washed with water, a saturated aqueous solution of potassium hydrogen sulfate and a saturated aqueous solution of sodium chloride and then dried over magnesium sulfate. The solvent was distilled away under reduced pressure to obtain 1.69 g of the title compound. Yield: 98%.

reactant | 3-hydroxybenzoic acid methyl ester | 1.53 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | imidazole | 1.69 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 1.57 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-t-butyldimethylsilyloxybenzoic acid methyl ester | 1.69 g, Yield: 98% | COC(C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C14H22O3Si
